US04885393
Preparation of sec.-butyl-di-n-octyl phosphine oxide
40 g H2O2 (0.35 mol, 30% solution) was added dropwise while cooling with water and with intense agitation to 80 g (0.25 mol) sec.-butyl-di-n-octyl phosphine in a 500 ml-double-walled vessel. After all had been added, the reaction solution was heated to 70° C. over a period of 30 minutes, while stirring was interrupted. An aqueous phase which deposited on the bottom of the vessel was separated. It was admixed with 4.5 ml sodium carbonate solution (30 g/l) and the pH increased from 5.6 to 9.2. The whole was stirred over a period of 1 hour at 80° C. and allowed to deposit. The aqueous phase was separated and the crude product was distilled in vacuum.

reactant | H2O2 | 0.35 mol, 40 g | OO | H2O2
reactant | sec.-butyl-di-n-octyl phosphine | 0.25 mol, 80 g | C(C)(CC)P(CCCCCCCC)CCCCCCCC | C20H43P
solvent | water | O | H2O
product | sec.-butyl-di-n-octyl phosphine oxide | C(C)(CC)P(CCCCCCCC)(CCCCCCCC)=O | C20H43OP
